US04526719
Using p-nitrophenyl 3-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)propionate (187 mg, 0.5 mmol) and dibenzyl L-glutamate p-toluenesulfonate (250 mg, 0.5 mmol) and following the procedure of Example 4, there was obtained 3-(2,3-dimethoxy-5-methylbenzoquinon-6-yl)propionyl-L-glutamic acid (49 mg).

reactant | p-nitrophenyl 3-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)propionate | 0.5 mmol, 187 mg | COC=1C(C(=C(C(C1OC)=O)C)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H17NO8
reactant | dibenzyl L-glutamate p-toluenesulfonate | 0.5 mmol, 250 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1
product | 3-(2,3-dimethoxy-5-methylbenzoquinon-6-yl)propionyl-L-glutamic acid | 49 mg | COC=1C(C(=C(C(C1OC)=O)C)CCC(=O)N[C@@H](CCC(=O)O)C(=O)O)=O | C17H21NO9
